### PR TITLE
[Merged by Bors] - feat(Combinatorics/Additive): subset-sum definition and basic properties 

### PR DESCRIPTION
**Pull request by barni120400**
Add subset-sum definition, basic properties and cardinality lower bound

### CODE REVIEW

File: Mathlib/Combinatorics/Additive/SubsetSum.lean [hunk 1]
```diff
@@ -0,0 +1,117 @@
...
+## References
+
+* [Melvyn B. Nathanson, *Inverse theorems for subset sums*][Nathanson1995]
+-/
+
+variable {α : Type*} [DecidableEq α] [AddCommMonoid α]
+
+/-- The SubsetSum of a finite set `A` in a commutative monoid is the set of all sums
+  of subsets of `A`. -/
+def SubsetSum (A : Finset α) : Finset α := A.powerset.image fun S ↦ S.sum id
```
Comment (kckennylau) [inline Mathlib/Combinatorics/Additive/SubsetSum.lean]: 1. Convention dictates that every type should be in uppercase, and every term should be in lowercase. In this case, it means that `subsetSum`, `a`, and `s` should all be lowercase here.
2. You may consider also making this `Finset.subsetSum` to enable dot notation below. (i.e. this allows you to write `s.subsetSum` for `s : Finset _`)

File: Mathlib/Combinatorics/Additive/SubsetSum.lean [hunk 2]
```diff
@@ -0,0 +1,117 @@
...
+
+namespace SubsetSum
```
Comment (kckennylau) [inline Mathlib/Combinatorics/Additive/SubsetSum.lean]:
```suggestion
namespace Finset
```

File: Mathlib/Combinatorics/Additive/SubsetSum.lean [hunk 3]
```diff
@@ -0,0 +1,117 @@
...
+
```
Comment (kckennylau) [inline Mathlib/Combinatorics/Additive/SubsetSum.lean:39]: The philosophy of "API" says that whenever you make a new definition, you should *immediately* make the characteristic predicate to interact with the definition. In this case, the API is
```lean
theorem mem_subsetSum_iff {x : α} : x ∈ s.subsetSum ↔ ∃ a ⊆ s, a.sum id = x := by simp [subsetSum]
```

Comment (kckennylau) [reply Mathlib/Combinatorics/Additive/SubsetSum.lean:39]: You can see how much it saves you below from writing `mem_image` and `mem_powerset` 1000 times.

File: Mathlib/Combinatorics/Additive/SubsetSum.lean [hunk 4]
```diff
@@ -0,0 +1,117 @@
...
+open Finset
+
+lemma zero_mem (A : Finset α) : (0 : α) ∈ SubsetSum A :=
```
Comment (kckennylau) [inline Mathlib/Combinatorics/Additive/SubsetSum.lean]: Please factor out common variables to a `variable` declaration.

File: Mathlib/Combinatorics/Additive/SubsetSum.lean (hunk 1 above)
Comment (barni120400) [reply Mathlib/Combinatorics/Additive/SubsetSum.lean]: About the variable names: I looked at the file Combinatorics/Additive/Convolution.lean for reference.
There, subsets use capital letters and elements use lowercase letters. That’s what I’m used to, and I find it more readable.
But if you still think I should change it, I’ll do it :)

Comment (kckennylau) [reply Mathlib/Combinatorics/Additive/SubsetSum.lean]: I guess that's fine then; but `subsetSum` is still lowercase.

File: Mathlib/Combinatorics/Additive/SubsetSum.lean [hunk 5]
```diff
@@ -0,0 +1,115 @@
...
+namespace Finset
+variable {α : Type*} [DecidableEq α] [AddCommMonoid α] {A : Finset α}
+
+/-- The SubsetSum of a finite set `A` in a commutative monoid is the set of all sums
+  of subsets of `A`. -/
+def subsetSum : Finset α := A.powerset.image fun S ↦ S.sum id
+
+theorem mem_subsetSum_iff {x : α} : x ∈ A.subsetSum ↔ ∃ a ⊆ A, a.sum id = x := by simp [subsetSum]
+
+lemma subsetSum_zero_mem : (0 : α) ∈ A.subsetSum :=
```
Comment (kckennylau) [inline Mathlib/Combinatorics/Additive/SubsetSum.lean]:
```suggestion
lemma subsetSum_zero_mem : 0 ∈ A.subsetSum :=
```

File: Mathlib/Combinatorics/Additive/SubsetSum.lean [hunk 6]
```diff
@@ -0,0 +1,115 @@
...
+  mem_subsetSum_iff.mpr ⟨∅, empty_subset _, sum_empty⟩
+
+lemma self_subset_subsetSum : A ⊆ A.subsetSum :=
+  fun a ha => mem_subsetSum_iff.mpr ⟨{a}, by simp [ha], by simp⟩
```
Comment (kckennylau) [inline Mathlib/Combinatorics/Additive/SubsetSum.lean]:
```suggestion
  fun a ha => mem_subsetSum_iff.mpr ⟨{a}, by simp [ha]⟩
```

File: Mathlib/Combinatorics/Additive/SubsetSum.lean [hunk 7]
```diff
@@ -0,0 +1,115 @@
...
+
+* [Melvyn B. Nathanson, *Inverse theorems for subset sums*][Nathanson1995]
+-/
+
+namespace Finset
+variable {α : Type*} [DecidableEq α] [AddCommMonoid α] {A : Finset α}
+
+/-- The SubsetSum of a finite set `A` in a commutative monoid is the set of all sums
+  of subsets of `A`. -/
+def subsetSum : Finset α := A.powerset.image fun S ↦ S.sum id
```
Comment (kckennylau) [inline Mathlib/Combinatorics/Additive/SubsetSum.lean]:
```suggestion
def subsetSum (A : Finset α) : Finset α := A.powerset.image fun S ↦ S.sum id
```
to make `A` explicit

File: Mathlib/Combinatorics/Additive/SubsetSum.lean [hunk 8]
```diff
@@ -0,0 +1,115 @@
...
+lemma subsetSum_zero_mem : (0 : α) ∈ A.subsetSum :=
+  mem_subsetSum_iff.mpr ⟨∅, empty_subset _, sum_empty⟩
+
+lemma self_subset_subsetSum : A ⊆ A.subsetSum :=
+  fun a ha => mem_subsetSum_iff.mpr ⟨{a}, by simp [ha], by simp⟩
+
+lemma subsetSum_monotone {B : Finset α} (hAB : A ⊆ B) : A.subsetSum ⊆ B.subsetSum :=
+  fun _x hx => by
+    obtain ⟨S, hS, rfl⟩ := mem_subsetSum_iff.mp hx
+    exact mem_subsetSum_iff.mpr ⟨S, hS.trans hAB, rfl⟩
```
Comment (kckennylau) [inline Mathlib/Combinatorics/Additive/SubsetSum.lean]:
```suggestion
lemma subsetSum_monotone {B : Finset α} (hAB : A ⊆ B) : A.subsetSum ⊆ B.subsetSum :=
  image_mono _ <| powerset_mono.mpr hAB
```

File: Mathlib/Combinatorics/Additive/SubsetSum.lean [hunk 9]
```diff
@@ -0,0 +1,115 @@
...
+
+
```
Comment (kckennylau) [inline Mathlib/Combinatorics/Additive/SubsetSum.lean:63]:
```suggestion

```

File: Mathlib/Combinatorics/Additive/SubsetSum.lean [hunk 10]
```diff
@@ -0,0 +1,115 @@
...
+variable {β : Type*} [DecidableEq β] [AddCancelCommMonoid β] [LinearOrder β]
+  [CanonicallyOrderedAdd β] {A : Finset β} {a : β}
```
Comment (kckennylau) [inline Mathlib/Combinatorics/Additive/SubsetSum.lean]: maybe instead of restricting beta, we can say that everything in the set is positive?

File: Mathlib/Combinatorics/Additive/SubsetSum.lean [hunk 11]
```diff
@@ -0,0 +1,115 @@
...
+
+private lemma card_subsetSum_insert_max (A_lt_a : ∀ x ∈ A, x < a)
```
Comment (kckennylau) [inline Mathlib/Combinatorics/Additive/SubsetSum.lean]:
```suggestion
lemma card_subsetSum_insert_max (A_lt_a : ∀ x ∈ A, x < a)
```
I don't know what the official policy is, but personally for me `private` is for things that can be derived from the public results, and this one doesn't seem to be derivable.

File: Mathlib/Combinatorics/Additive/SubsetSum.lean [hunk 12]
```diff
@@ -0,0 +1,115 @@
...
+    (zero_notin_A : 0 ∉ A) (a_ne_zero : a ≠ 0) :
+    A.card + 1 + A.subsetSum.card ≤ (insert a A).subsetSum.card := by
+  -- We show that (insert 0 A) and (SubsetSum A).image (· + a) are disjoint subsets
+  -- of SubsetSum (insert a A), and their combined cardinality gives the result.
+
+  have a_notin_A : a ∉ A := fun ha => (A_lt_a a ha).false
```
Comment (kckennylau) [inline Mathlib/Combinatorics/Additive/SubsetSum.lean]:
```suggestion
  -- We show that (insert 0 A) and (SubsetSum A).image (· + a) are disjoint subsets
  -- of SubsetSum (insert a A), and their combined cardinality gives the result.
  have a_notin_A : a ∉ A := fun ha => (A_lt_a a ha).false
```

File: Mathlib/Combinatorics/Additive/SubsetSum.lean [hunk 13]
```diff
@@ -0,0 +1,115 @@
...
+    exact mem_subsetSum_iff.mpr ⟨S, hS.trans hAB, rfl⟩
+
+
+variable {β : Type*} [DecidableEq β] [AddCancelCommMonoid β] [LinearOrder β]
+  [CanonicallyOrderedAdd β] {A : Finset β} {a : β}
+
+private lemma card_subsetSum_insert_max (A_lt_a : ∀ x ∈ A, x < a)
+    (zero_notin_A : 0 ∉ A) (a_ne_zero : a ≠ 0) :
+    A.card + 1 + A.subsetSum.card ≤ (insert a A).subsetSum.card := by
+  -- We show that (insert 0 A) and (SubsetSum A).image (· + a) are disjoint subsets
```
Comment (kckennylau) [inline Mathlib/Combinatorics/Additive/SubsetSum.lean]:
```suggestion
  -- We show that (insert 0 A) and (subsetSum A).image (· + a) are disjoint subsets
```

File: Mathlib/Combinatorics/Additive/SubsetSum.lean [hunk 14]
```diff
@@ -0,0 +1,115 @@
...
+lemma self_subset_subsetSum : A ⊆ A.subsetSum :=
+  fun a ha => mem_subsetSum_iff.mpr ⟨{a}, by simp [ha], by simp⟩
+
+lemma subsetSum_monotone {B : Finset α} (hAB : A ⊆ B) : A.subsetSum ⊆ B.subsetSum :=
+  fun _x hx => by
+    obtain ⟨S, hS, rfl⟩ := mem_subsetSum_iff.mp hx
+    exact mem_subsetSum_iff.mpr ⟨S, hS.trans hAB, rfl⟩
+
+
+variable {β : Type*} [DecidableEq β] [AddCancelCommMonoid β] [LinearOrder β]
```
Comment (kckennylau) [inline Mathlib/Combinatorics/Additive/SubsetSum.lean]:
```suggestion
variable {β : Type*} [AddCancelCommMonoid β] [LinearOrder β]
```
in Lean LinearOrder comes with discreteness

File: Mathlib/Combinatorics/Additive/SubsetSum.lean [hunk 15]
```diff
@@ -0,0 +1,115 @@
...
+/-- The SubsetSum of a finite set `A` in a commutative monoid is the set of all sums
+  of subsets of `A`. -/
+def subsetSum : Finset α := A.powerset.image fun S ↦ S.sum id
+
+theorem mem_subsetSum_iff {x : α} : x ∈ A.subsetSum ↔ ∃ a ⊆ A, a.sum id = x := by simp [subsetSum]
+
+lemma subsetSum_zero_mem : (0 : α) ∈ A.subsetSum :=
+  mem_subsetSum_iff.mpr ⟨∅, empty_subset _, sum_empty⟩
+
+lemma self_subset_subsetSum : A ⊆ A.subsetSum :=
```
Comment (kckennylau) [inline Mathlib/Combinatorics/Additive/SubsetSum.lean]:
```suggestion
lemma subset_subsetSum : A ⊆ A.subsetSum :=
```

File: Mathlib/Combinatorics/Additive/SubsetSum.lean [hunk 16]
```diff
@@ -0,0 +1,115 @@
...
+    simp only [mem_inter, mem_image] at hx
+    obtain ⟨hxA, b, _, rfl⟩ := hx
+    exact (A_lt_a _ hxA).not_ge (le_add_of_nonneg_left (zero_le b))
+
+  -- Both sets are subsets of (insert a A).subsetSum
+  have insert_subset : insert 0 A ⊆ (insert a A).subsetSum :=
+    insert_subset subsetSum_zero_mem
+      (self_subset_subsetSum.trans (subsetSum_monotone (subset_insert a A)))
+
+  have image_subset : A.subsetSum.image (· + a) ⊆ (insert a A).subsetSum := by
```
Comment (kckennylau) [inline Mathlib/Combinatorics/Additive/SubsetSum.lean]: This seems to be a useful separate lemma.

File: Mathlib/Combinatorics/Additive/SubsetSum.lean [hunk 17]
```diff
@@ -0,0 +1,115 @@
...
+    intro x hx
+    obtain ⟨t, ht, rfl⟩ := mem_image.mp hx
+    obtain ⟨S, hS, rfl⟩ := mem_subsetSum_iff.mp ht
+    have a_notin_S : a ∉ S := fun h => a_notin_A (hS h)
+    refine mem_subsetSum_iff.mpr ⟨insert a S, insert_subset_insert a hS, ?_⟩
+    simp only [sum_insert a_notin_S, id_eq, add_comm]
```
Comment (kckennylau) [inline Mathlib/Combinatorics/Additive/SubsetSum.lean]:
```suggestion
  have image_subset : A.subsetSum.image (· + a) ⊆ (insert a A).subsetSum := by
    simp_rw [subset_iff, mem_image, mem_subsetSum_iff]
    rintro _ ⟨_, ⟨S, hS, rfl⟩, rfl⟩
    exact ⟨insert a S, by aesop, by rw [sum_insert (fun h => a_notin_A (hS h)), add_comm]; rfl⟩
```

File: Mathlib/Combinatorics/Additive/SubsetSum.lean [hunk 18]
```diff
@@ -0,0 +1,115 @@
...
+
+  -- The disjointness
+  have zero_not_in_image : 0 ∉ A.subsetSum.image (· + a) := by simp [a_ne_zero]
+  have disjoint : Disjoint (insert 0 A) (A.subsetSum.image (· + a)) := by
+    rw [disjoint_iff_inter_eq_empty, inter_comm, inter_insert_of_notMem zero_not_in_image,
+      inter_comm]
+    refine eq_empty_iff_forall_notMem.mpr fun x hx => ?_
+    simp only [mem_inter, mem_image] at hx
+    obtain ⟨hxA, b, _, rfl⟩ := hx
+    exact (A_lt_a _ hxA).not_ge (le_add_of_nonneg_left (zero_le b))
```
Comment (kckennylau) [inline Mathlib/Combinatorics/Additive/SubsetSum.lean]:
```suggestion
  have disjoint : Disjoint (insert 0 A) (A.subsetSum.image (· + a)) := by
    rw [disjoint_insert_left, eq_true zero_not_in_image, true_and, disjoint_left]
    simp only [mem_image]
    rintro _ hxA ⟨b, _, rfl⟩
    exact (A_lt_a _ hxA).not_ge (le_add_of_nonneg_left (zero_le b))
```
There's no need to complicate the proof by going to intersection.

**Review by kckennylau — CHANGES_REQUESTED** [review]
Should we also have a theorem where we don't assume 0 is not in A? And the bound is probably `(#A) C 2`?

**Comment by kckennylau** [comment]
Maybe we can also show that `(Finset.range (n + 1)).erase 0` attains the bound?

File: Mathlib/Combinatorics/Additive/SubsetSum.lean [hunk 19]
```diff
@@ -0,0 +1,115 @@
...
+-/
+import Mathlib.Algebra.BigOperators.Group.Finset.Basic
+import Mathlib.Algebra.Order.Monoid.Canonical.Defs
+import Mathlib.Data.Finset.Basic
+import Mathlib.Data.Finset.Card
+import Mathlib.Data.Finset.Defs
+import Mathlib.Data.Finset.Image
+import Mathlib.Data.Finset.Powerset
+import Mathlib.Data.Finset.Max
+import Mathlib.Data.Nat.Choose.Basic
```
Comment (kckennylau) [inline Mathlib/Combinatorics/Additive/SubsetSum.lean]: If you add `#min_imports` to the bottom of the file, then you can see which imports you need.

File: Mathlib/Combinatorics/Additive/SubsetSum.lean (hunk 7 above)
Comment (barni120400) [reply Mathlib/Combinatorics/Additive/SubsetSum.lean]: I'll fix it.
But why does it matter that A is defined explicitly in the definition?

File: Mathlib/Combinatorics/Additive/SubsetSum.lean (hunk 15 above)
Comment (barni120400) [reply Mathlib/Combinatorics/Additive/SubsetSum.lean]: Are you sure about the naming? maybe "set_subset_subsetSum"? Because otherwise it's not clear who is the subset.

File: Mathlib/Combinatorics/Additive/SubsetSum.lean [hunk 20]
```diff
@@ -0,0 +1,115 @@
...
+
+theorem mem_subsetSum_iff {x : α} : x ∈ A.subsetSum ↔ ∃ a ⊆ A, a.sum id = x := by simp [subsetSum]
+
+lemma subsetSum_zero_mem : (0 : α) ∈ A.subsetSum :=
+  mem_subsetSum_iff.mpr ⟨∅, empty_subset _, sum_empty⟩
+
+lemma self_subset_subsetSum : A ⊆ A.subsetSum :=
+  fun a ha => mem_subsetSum_iff.mpr ⟨{a}, by simp [ha], by simp⟩
+
+lemma subsetSum_monotone {B : Finset α} (hAB : A ⊆ B) : A.subsetSum ⊆ B.subsetSum :=
```
Comment (Rob23oba) [inline Mathlib/Combinatorics/Additive/SubsetSum.lean]: `monotone` is usually reserved for proofs of `Monotone f`, in the case where the lemma is stated directly as `r a b -> r (f a) (f b)`, the convention is to use the `_mono` suffix instead.

File: Mathlib/Combinatorics/Additive/SubsetSum.lean (hunk 7 above)
Comment (Rob23oba) [reply Mathlib/Combinatorics/Additive/SubsetSum.lean]: The difference is in how `subsetSum` can be used as a function. If you don't make it explicit (i.e. `(A : Finset α)`) but instead make it implicit (i.e. `{A : Finset α}`), then `Finset.subsetSum A` doesn't work because the parameter is implicit and you'd instead have to write `@Finset.subsetSum A` or `Finset.subsetSum (A := A)`.

File: Mathlib/Combinatorics/Additive/SubsetSum.lean (hunk 19 above)
Comment (Rob23oba) [inline Mathlib/Combinatorics/Additive/SubsetSum.lean]: Yeah,
```suggestion
import Mathlib.Algebra.BigOperators.Group.Finset.Basic
import Mathlib.Algebra.Order.Monoid.Canonical.Defs
import Mathlib.Data.Finset.Max
import Mathlib.Data.Finset.Powerset
```
should do the trick (the output of `#min_imports`)

**Review by Rob23oba — CHANGES_REQUESTED** [review]

File: Mathlib/Combinatorics/Additive/SubsetSum.lean (hunk 10 above)
Comment (barni120400) [reply Mathlib/Combinatorics/Additive/SubsetSum.lean]: Using a positive set lets you remove the assumption [CanonicallyOrderedAdd β].
I think the proof can even work with a partial order rather than a linear order.
However, you still need the cancellation property add_right_cancel in order to claim that translation by a is injective and that the cardinality stays the same.

File: Mathlib/Combinatorics/Additive/SubsetSum.lean [hunk 21]
```diff
@@ -0,0 +1,115 @@
...
+import Mathlib.Data.Nat.Choose.Basic
+
+/-!
+# Subset sums
+
+This file defines the subset sum of a finite subset of a commutative monoid.
+
+## Main results
+
+* `Finset.mem_subsetSum_iff`: Characterization of membership in the subset sum.
```
Comment (barni120400) [inline Mathlib/Combinatorics/Additive/SubsetSum.lean]: Should I leave this Main Results section? I think that just looking at the theorems is clearer

Comment (YaelDillies) [reply Mathlib/Combinatorics/Additive/SubsetSum.lean]: Only important results should be mentioned, and I don't think any of the current results are particularly important?

Comment (barni120400) [reply Mathlib/Combinatorics/Additive/SubsetSum.lean]: Ok so I remove this section

File: Mathlib/Combinatorics/Additive/SubsetSum.lean (hunk 10 above)
Comment (kckennylau) [reply Mathlib/Combinatorics/Additive/SubsetSum.lean]: So should we remove CanonicallyOrderedAdd β?

File: Mathlib/Combinatorics/Additive/SubsetSum.lean [hunk 22]
```diff
@@ -0,0 +1,108 @@
...
+  calc A.card + 1 + A.subsetSum.card
+    _ = (insert 0 A).card + A.subsetSum.card := by rw [card_insert_of_notMem zero_notin_A]
+    _ = (insert 0 A).card + (A.subsetSum.image (· + a)).card := by
+        simp only [card_image_of_injOn fun _ _ _ _ hxy => add_right_cancel hxy]
+    _ = ((insert 0 A) ∪ A.subsetSum.image (· + a)).card := by rw [card_union_of_disjoint disjoint]
+    _ ≤ (insert a A).subsetSum.card := card_le_card (union_subset insert_subset image_subset)
+
+-- The proof follows Theorem 3 in [Nathanson1995].
+theorem zero_notMem_subsetSum_card_lower_bound (hA : 0 ∉ A) :
+    (A.card + 1).choose 2 + 1 ≤ A.subsetSum.card := by
```
Comment (kckennylau) [inline Mathlib/Combinatorics/Additive/SubsetSum.lean]:
```suggestion
theorem card_succ_choose_two_le_card_subsetSum_of_zero_notMem (hA : 0 ∉ A) :
    (A.card + 1).choose 2 + 1 ≤ A.subsetSum.card := by
```

File: Mathlib/Combinatorics/Additive/SubsetSum.lean [hunk 23]
```diff
@@ -0,0 +1,108 @@
...
+    have a_notin_A : a ∉ A := fun ha => (A_lt_a a ha).false
+    rw [card_insert_of_notMem a_notin_A]
+    calc ((A.card + 1) + 1).choose 2 + 1
+      _ = (A.card + 1).choose 1 + (A.card + 1).choose 2 + 1 := by rw [Nat.choose_succ_left]; omega
+      _ = A.card + 1 + (A.card + 1).choose 2 + 1 := by rw [Nat.choose_one_right]
+      _ ≤ A.card + 1 + A.subsetSum.card := Nat.add_le_add_left (ih zero_notin_A) _
+      _ ≤ (insert a A).subsetSum.card :=
+          card_subsetSum_insert_max A_lt_a zero_notin_A fun ha ↦ hA (by simp [ha])
+
+theorem subsetSum_card_lower_bound : A.card.choose 2 + 1 ≤ A.subsetSum.card := by
```
Comment (kckennylau) [inline Mathlib/Combinatorics/Additive/SubsetSum.lean]:
```suggestion
theorem card_choose_two_succ_le_card_subsetSum : A.card.choose 2 + 1 ≤ A.subsetSum.card := by
```

File: Mathlib/Combinatorics/Additive/SubsetSum.lean (hunk 15 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/Additive/SubsetSum.lean]: I believe Kenny's suggestion is okay here because there is no other lemma that could claim the `subset_subsetSum` name

File: Mathlib/Combinatorics/Additive/SubsetSum.lean (hunk 22 above)
Comment (barni120400) [reply Mathlib/Combinatorics/Additive/SubsetSum.lean]: If so then have you meant  card_succ_choose_two_**succ**_le_card_subsetSum_of_zero_notMem
?

File: Mathlib/Combinatorics/Additive/SubsetSum.lean (hunk 10 above)
Comment (barni120400) [reply Mathlib/Combinatorics/Additive/SubsetSum.lean]: Ammm I really don't know what is better. Assuming CanonicallyOrderedAdd or adding assumption that the elements are positive.
Whatever you or other lean contributors think.

File: Mathlib/Combinatorics/Additive/SubsetSum.lean (hunk 22 above)
Comment (kckennylau) [reply Mathlib/Combinatorics/Additive/SubsetSum.lean]: Indeed.

File: Mathlib/Combinatorics/Additive/SubsetSum.lean (hunk 10 above)
Comment (kckennylau) [reply Mathlib/Combinatorics/Additive/SubsetSum.lean]: We could have both versions, and then you'll observe that it's easier to go from the positive one to the canonical one than the other way round.

Comment (kckennylau) [reply Mathlib/Combinatorics/Additive/SubsetSum.lean]: But I'll see what @YaelDillies thinks.

File: Mathlib/Combinatorics/Additive/SubsetSum.lean (hunk 22 above)
Comment (Rob23oba) [reply Mathlib/Combinatorics/Additive/SubsetSum.lean]: Isn't `add_one` preferred over `succ`?

File: Mathlib/Combinatorics/Additive/SubsetSum.lean (hunk 10 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/Additive/SubsetSum.lean]: I agree with Kenny here.

Comment (barni120400) [reply Mathlib/Combinatorics/Additive/SubsetSum.lean]: After playing with different ways to define \beta, I managed to prove the theorems when assuming the elements in A are positive and \beta is:
variable {β : Type*} [AddCommMonoid β] [LinearOrder β] [IsOrderedCancelAddMonoid β]

Anyway we must have ``IsOrderedCancelAddMonoid`` for addition being monotone and cancellative with respect to the order.
@kckennylau I'll soon push a version of this in a different commit and decide what looks better.

File: Mathlib/Combinatorics/Additive/SubsetSum.lean [hunk 24]
```diff
@@ -0,0 +1,119 @@
+/-
+Copyright (c) 2025 Aviv Bar Natan. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Aviv Bar Natan
+-/
+import Mathlib.Algebra.BigOperators.Group.Finset.Basic
+import Mathlib.Algebra.Order.Monoid.Canonical.Defs
+import Mathlib.Data.Finset.Max
+import Mathlib.Data.Finset.Powerset
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Additive/SubsetSum.lean]: This needs to become
```suggestion
module

public import Mathlib.Algebra.BigOperators.Group.Finset.Basic
public import Mathlib.Algebra.Order.Monoid.Canonical.Defs
public import Mathlib.Data.Finset.Max
public import Mathlib.Data.Finset.Powerset
```

File: Mathlib/Combinatorics/Additive/SubsetSum.lean [hunk 25]
```diff
@@ -0,0 +1,119 @@
...
+/-!
+# Subset sums
+
+This file defines the subset sum of a finite subset of a commutative monoid.
+
+## References
+
+* [Melvyn B. Nathanson, *Inverse theorems for subset sums*][Nathanson1995]
+-/
+
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Additive/SubsetSum.lean:26]:
```suggestion

public section

```

File: Mathlib/Combinatorics/Additive/SubsetSum.lean [hunk 26]
```diff
@@ -0,0 +1,119 @@
...
+namespace Finset
+variable {α : Type*} [DecidableEq α] [AddCommMonoid α] {A : Finset α}
+
+/-- The subsetSum of a finite set `A` in a commutative monoid is the set of all sums
+  of subsets of `A`. -/
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Additive/SubsetSum.lean]:
```suggestion
of subsets of `A`. -/
```

File: Mathlib/Combinatorics/Additive/SubsetSum.lean [hunk 27]
```diff
@@ -0,0 +1,119 @@
...
+
+## References
+
+* [Melvyn B. Nathanson, *Inverse theorems for subset sums*][Nathanson1995]
+-/
+
+namespace Finset
+variable {α : Type*} [DecidableEq α] [AddCommMonoid α] {A : Finset α}
+
+/-- The subsetSum of a finite set `A` in a commutative monoid is the set of all sums
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Additive/SubsetSum.lean]:
```suggestion
/-- The subset-sum of a finite set `A` in a commutative monoid is the set of all sums
```

File: Mathlib/Combinatorics/Additive/SubsetSum.lean [hunk 28]
```diff
@@ -0,0 +1,119 @@
...
+
+This file defines the subset sum of a finite subset of a commutative monoid.
+
+## References
+
+* [Melvyn B. Nathanson, *Inverse theorems for subset sums*][Nathanson1995]
+-/
+
+namespace Finset
+variable {α : Type*} [DecidableEq α] [AddCommMonoid α] {A : Finset α}
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Additive/SubsetSum.lean]: Please avoid using generic variables (greek letters) for types equipped with algebraic structure
```suggestion
variable {M : Type*} [DecidableEq M] [AddCommMonoid M] {A : Finset M} {a : M}
```

File: Mathlib/Combinatorics/Additive/SubsetSum.lean [hunk 29]
```diff
@@ -0,0 +1,119 @@
...
+
+theorem mem_subsetSum_iff {x : α} : x ∈ A.subsetSum ↔ ∃ a ⊆ A, a.sum id = x := by simp [subsetSum]
+
+lemma subsetSum_zero_mem : 0 ∈ A.subsetSum :=
+  mem_subsetSum_iff.mpr ⟨∅, empty_subset _, sum_empty⟩
+
+lemma subset_subsetSum : A ⊆ A.subsetSum :=
+  fun a ha => mem_subsetSum_iff.mpr ⟨{a}, by simp [ha]⟩
+
+lemma subsetSum_mono {B : Finset α} (hAB : A ⊆ B) : A.subsetSum ⊆ B.subsetSum :=
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Additive/SubsetSum.lean]:
```suggestion
@[gcongr]
lemma subsetSum_mono {B : Finset α} (hAB : A ⊆ B) : A.subsetSum ⊆ B.subsetSum :=
```

File: Mathlib/Combinatorics/Additive/SubsetSum.lean (hunk 28 above)
Comment (YaelDillies) [inline Mathlib/Combinatorics/Additive/SubsetSum.lean]: Do you actually need decidable equality?
```suggestion
variable {α : Type*} [AddCommMonoid α] {A : Finset α}
```

File: Mathlib/Combinatorics/Additive/SubsetSum.lean [hunk 30]
```diff
@@ -0,0 +1,119 @@
...
+  image_mono _ <| powerset_mono.mpr hAB
+
+lemma subsetSum_eq_subsetSum_erase_zero : (A \ {0}).subsetSum = A.subsetSum := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Additive/SubsetSum.lean]:
```suggestion
@[simp] lemma subsetSum_erase_zero : (A.erase 0).subsetSum = A.subsetSum := by
```

File: Mathlib/Combinatorics/Additive/SubsetSum.lean [hunk 31]
```diff
@@ -0,0 +1,119 @@
...
+  refine le_antisymm (subsetSum_mono sdiff_subset) fun x hx => ?_
+  obtain ⟨S, hS, rfl⟩ := mem_subsetSum_iff.mp hx
+  refine mem_subsetSum_iff.mpr ⟨S.erase 0, ?_, sum_erase _ (by simp)⟩
+  exact fun i hi => mem_sdiff.mpr ⟨hS (mem_of_mem_erase hi), by simp [mem_erase.mp hi]⟩
+
+lemma subsetSum_image_add_notMem_subset_subsetSum_insert {a : α} (a_notin_A : a ∉ A) :
+    A.subsetSum.image (· + a) ⊆ (insert a A).subsetSum := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Additive/SubsetSum.lean]:
```suggestion
lemma vadd_finset_subsetSum_subset_subsetSum_insert {a : α} (a_notin_A : a ∉ A) :
    a +\_v A.subsetSum.image ⊆ (insert a A).subsetSum := by
```
once you've added `open scoped Pointwise` at the top (and imported `Mathlib.Algebra.Group.Action.Pointwise.Finset`)

File: Mathlib/Combinatorics/Additive/SubsetSum.lean [hunk 32]
```diff
@@ -0,0 +1,119 @@
...
+  simp_rw [subset_iff, mem_image, mem_subsetSum_iff]
+  rintro _ ⟨_, ⟨S, hS, rfl⟩, rfl⟩
+  exact ⟨insert a S, by aesop, by rw [sum_insert (fun h => a_notin_A (hS h)), add_comm]; rfl⟩
+
+variable {β : Type*} [AddCommMonoid β] [LinearOrder β]
+  [IsOrderedCancelAddMonoid β] {A : Finset β} {a : β}
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Additive/SubsetSum.lean]: Why not reuse the existing variable?
```suggestion
variable [LinearOrder M] [IsOrderedCancelAddMonoid M]
```

File: Mathlib/Combinatorics/Additive/SubsetSum.lean [hunk 33]
```diff
@@ -0,0 +1,119 @@
...
+
+lemma subsetSum_nonneg_of_nonneg (A_nonneg : ∀ x ∈ A, 0 ≤ x) : ∀ x ∈ A.subsetSum, 0 ≤ x := by
+  intro _ hx
+  obtain ⟨S, hS, rfl⟩ := mem_subsetSum_iff.mp hx
+  exact sum_induction _ (0 ≤ ·) (fun _ _ => add_nonneg) (le_refl 0) fun a ha => A_nonneg a (hS ha)
+
+lemma subsetSum_nonneg_of_pos (A_pos : ∀ x ∈ A, 0 < x) : ∀ x ∈ A.subsetSum, 0 ≤ x :=
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Additive/SubsetSum.lean]: I don't see the point of this lemma given the previous

File: Mathlib/Combinatorics/Additive/SubsetSum.lean [hunk 34]
```diff
@@ -0,0 +1,119 @@
...
+-/
+
+namespace Finset
+variable {α : Type*} [DecidableEq α] [AddCommMonoid α] {A : Finset α}
+
+/-- The subsetSum of a finite set `A` in a commutative monoid is the set of all sums
+  of subsets of `A`. -/
+def subsetSum (A : Finset α) : Finset α := A.powerset.image fun S ↦ S.sum id
+
+theorem mem_subsetSum_iff {x : α} : x ∈ A.subsetSum ↔ ∃ a ⊆ A, a.sum id = x := by simp [subsetSum]
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Additive/SubsetSum.lean]: I would suggest
```suggestion
@[simp]
lemma mem_subsetSum : a ∈ A.subsetSum ↔ ∃ B ⊆ A, \sum b \in B, b = a := by simp [subsetSum]
```

File: Mathlib/Combinatorics/Additive/SubsetSum.lean [hunk 35]
```diff
@@ -0,0 +1,119 @@
...
+    _ = (insert 0 A).card + A.subsetSum.card := by
+        rw [card_insert_of_notMem fun h => (A_pos 0 h).false]
+    _ = (insert 0 A).card + (A.subsetSum.image (· + a)).card := by
+        simp only [card_image_of_injOn fun _ _ _ _ hxy => add_right_cancel hxy]
+    _ = ((insert 0 A) ∪ A.subsetSum.image (· + a)).card := by rw [card_union_of_disjoint disjoint]
+    _ ≤ (insert a A).subsetSum.card := card_le_card (union_subset insert_subset image_subset)
+
+-- The proof follows Theorem 3 in [Nathanson1995].
+theorem card_succ_choose_two_succ_le_card_subsetSum_of_pos (A_pos : ∀ x ∈ A, 0 < x) :
+    (A.card + 1).choose 2 + 1 ≤ A.subsetSum.card := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Additive/SubsetSum.lean]:
```suggestion
    (A.card + 1).choose 2 < #A.subsetSum := by
```
Same below

File: Mathlib/Combinatorics/Additive/SubsetSum.lean (hunk 33 above)
Comment (barni120400) [reply Mathlib/Combinatorics/Additive/SubsetSum.lean]: @YaelDillies It's just because I've used it twice in this file, so I thought it would be more convenient as a separate lemma. Do you think it's better to make it private or just remove it?

File: Mathlib/Combinatorics/Additive/SubsetSum.lean (hunk 35 above)
Comment (barni120400) [reply Mathlib/Combinatorics/Additive/SubsetSum.lean]: @YaelDillies Is it better to use the # notation eevrywhere intead of .card?
I can change it also in the proofs.

File: Mathlib/Combinatorics/Additive/SubsetSum.lean (hunk 28 above)
Comment (barni120400) [reply Mathlib/Combinatorics/Additive/SubsetSum.lean]: @YaelDillies I'm not an expert but it looks necessary from what I've read. When I remove it many proofs break.

File: Mathlib/Combinatorics/Additive/SubsetSum.lean (hunk 35 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/Additive/SubsetSum.lean]: Yeah it's better

File: Mathlib/Combinatorics/Additive/SubsetSum.lean (hunk 33 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/Additive/SubsetSum.lean]: Just remove it, I'd suggest

File: Mathlib/Combinatorics/Additive/SubsetSum.lean (hunk 28 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/Additive/SubsetSum.lean]: But does any *statement* break? If a proof breaks, then you should start it with `classical`

Comment (barni120400) [reply Mathlib/Combinatorics/Additive/SubsetSum.lean]: @YaelDillies Yeah the statements break. Even the definition of subsetSum breaks.

**Comment by barni120400** [comment]
-awaiting-author
